US03939253
3,4-diacetyloxy-L-phenylalanine hydrochloride (15.00 g. 47.2 millimole) was dissolved in 20 ml of methanol and diluted to 900 ml with dichloromethane. To this solution, there was added, with vigorous stirring, 4.80 g (47.5 millimole) of triethylamine, which caused a gelatinous mass to form. After one hour, this mass was filtered and the residue was suspended in dichloromethane (300 ml) and filtered again. The residue was still contaminated with triethylamine hydrochloride. Consequently, it was suspended in dichloromethane (300 ml) again, and stirred for 3.5 hours. The suspension was filtered and dried at room temperature in vacuo to yield 12.5 g (95% yield by nmr) of 3,4-diacetyloxy-L-phenylalanine.

reactant | 3,4-diacetyloxy-L-phenylalanine hydrochloride | 47.2 millimole, 15.00 g | Cl.C(C)(=O)OC=1C=C(C[C@H](N)C(=O)O)C=CC1OC(C)=O
reactant | triethylamine | 47.5 millimole, 4.80 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,4-diacetyloxy-L-phenylalanine | 12.5 g, 95% yield | C(C)(=O)OC=1C=C(C[C@H](N)C(=O)O)C=CC1OC(C)=O | C13H15NO6
